US05703052
(1α,2α,5α,25R)-1,2-epoxy-spirostan-3-one
A mixture of (5α,25R)-spirost-1-en-3-one (2.87 g, 6.96 mmol), tetrahydrofuran (30 mL), methanol (50 mL) and 15% sodium hydroxide (1 mL) was stirred under nitrogen atmosphere. The mixture was cooled to 0° C. and 30% hydrogen peroxide (5 mL) was added. The reaction mixture was gradually warmed to room temperature and stirred for 4 hours. The reaction was diluted with ethyl acetate, cooled to 0° C., and then quenched with saturated sodium bisulfite solution. The mixture was washed with saturated sodium bisulfite (2×), brine (1×), dried (sodium sulfate), filtered and concentrated in vacuo to give 2.64 g, (88%) of the title compound.

reactant | (5α,25R)-spirost-1-en-3-one | 6.96 mmol, 2.87 g | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5CC(C=C[C@]5(C)[C@H]4CC[C@]23C)=O)O[C@]12CC[C@@H](C)CO2 | C27H40O3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 5 mL | OO | H2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | (1α,2α,5α,25R)-1,2-epoxy-spirostan-3-one | 88% | O1[C@H]2[C@@H]1C(C[C@@H]1CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H40O4
